US08486946B2
Step 7: Preparation of (±)-5-[4-(1H-pyrazol-1-yl)benzyl]-2-(tetrahydro-2H-pyran-3-yl)-2,5-dihydro-3H-pyrazolo[4,3-c]cinnolin-3-one
Ethyl 1-[4-(1H-pyrazol-1-yl)benzyl]-4-thioxo-1,4-dihydrocinnoline-3-carboxylate (200 mg, 0.510 mmol) and (±)-tetrahydro-2H-pyran-3-ylhydrazine hydrochloride (172 mg, 1.13 mmol, 2.2 equiv) were dissolved in N,N-dimethylformamide (10 mL) and acetonitrile (10 mL). The solution was sparged under nitrogen, treated with potassium carbonate (708 mg, 5.12 mmol, 10 equiv) and mercury(II)chloride (139 mg, 0.51 mmol, 1 equiv) and stirred at ambient temperature for 14 hours. The mixture was poured into water and extracted with ethyl acetate (3×70 mL) and the combined organic extracts were dried with sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel gradient chromatography (100:0 to 0:100; hexanes:ethyl acetate) to provide the titled compound as a dark red solid: 1H-NMR (400 MHz, CDCl3) δ 8.33-8.29 (1H, m), 7.88 (1H, d, J=2.5 Hz), 7.74 (1H, d, J=1.8 Hz), 7.66 (2H, d, J=8.7 Hz), 7.61-7.56 (3H, m), 7.40 (2H, d, J=8.6 Hz), 6.47 (1H, dd, J=2.4, 1.9 Hz), 5.85 (2H, s), 4.77-4.69 (1H, m), 4.06 (1H, ddd, J=10.8, 4.4, 1.6 Hz), 4.00 (1H, d, J=11.0 Hz), 3.84 (1H, ap t, J=10.6 Hz), 3.55-3.48 (1H, m), 2.31-2.19 (1H, m), 2.17-2.10 (1H, m), 1.92-1.83 (2H, m) ppm; high resolution mass spectrometry (ES+) m/z 427.1872 [(M+H)+; calculated for C24H22N6O2: 427.1877].

reactant | Ethyl 1-[4-(1H-pyrazol-1-yl)benzyl]-4-thioxo-1,4-dihydrocinnoline-3-carboxylate | 0.510 mmol, 200 mg | N1(N=CC=C1)C1=CC=C(CN2N=C(C(C3=CC=CC=C23)=S)C(=O)OCC)C=C1 | C21H18N4O2S
reactant | (±)-tetrahydro-2H-pyran-3-ylhydrazine hydrochloride | 1.13 mmol, 172 mg, 2.2 equiv | Cl.O1CC(CCC1)NN
reactant | potassium carbonate | 5.12 mmol, 708 mg, 10 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
catalyst | mercury(II)chloride | 0.51 mmol, 139 mg, 1 equiv | [Hg](Cl)Cl
product | (±)-5-[4-(1H-pyrazol-1-yl)benzyl]-2-(tetrahydro-2H-pyran-3-yl)-2,5-dihydro-3H-pyrazolo[4,3-c]cinnolin-3-one | N1(N=CC=C1)C1=CC=C(CN2N=C3C(C=4C=CC=CC24)=NN(C3=O)C3COCCC3)C=C1 | C24H22N6O2
